US05668291
2,2'-Dithiobis[N-(2-methoxyphenyl)benzamide]
This compound was prepared according to the general method of Example 77 using 2,2'-dithiobisbenzoyl chloride (2.00 g, 5.83 mmol) in 50 mL of dichloromethane and o-anisidine (1.42 g, 11.5 mmol) in 10 mL of pyridine. The crude product was recrystallized from ethanol-ethyl acetate, then again from acetonitrile-DMF to yield 0.634 g of the title compound, mp 154°-155° C.

reactant | 2,2'-dithiobisbenzoyl chloride | 5.83 mmol, 2.00 g | C(C1=C(C=CC=C1)SSC1=C(C(=O)Cl)C=CC=C1)(=O)Cl | C14H8Cl2O2S2
reactant | o-anisidine | 11.5 mmol, 1.42 g | COC=1C(=CC=CC1)N | C7H9NO
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 2,2'-Dithiobis[N-(2-methoxyphenyl)benzamide] | 0.634 g | COC1=C(C=CC=C1)NC(C1=C(C=CC=C1)SSC1=C(C(=O)NC2=C(C=CC=C2)OC)C=CC=C1)=O | C28H24N2O4S2
